US05026856
7-(4-amino-2-isoindolinyl)-1-ethyl-6-fluoro-1 4-dihydro-4 -oxoquinoline-3-carboxylic acid
177 mg of 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 282 mg of 4-amino-isoindoline, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 2 to produce 141 mg of the target compound.

reactant | 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 177 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C12H9F2NO3
reactant | 4-amino-isoindoline | 282 mg | NC1=C2CNCC2=CC=C1 | C8H10N2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7-(4-amino-2-isoindolinyl)-1-ethyl-6-fluoro-1 4-dihydro-4 -oxoquinoline-3-carboxylic acid | 141 mg | NC1=C2CN(CC2=CC=C1)C1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C20H18FN3O3
